US08754210B2
Step 1: Preparation of 2-[N-(4-nitro-phenyl)-hydrazino]-ethanol
1-Fluoro-4-nitrobenzene (7.1 g, 50 mmol) was dissolved in CH3CN (70 ml), 2-hydroxyethylhyrazine (purity: 90%, Aldrich, 5.0 g, 66 mmol) and K2CO3 (7.6 g, 55 mmol) were added thereto. The suspension thus obtained was stirred for 4 hrs with reflux. The resulting orange-colored suspension was concentrated under reduced pressure (reflux condenser, 10 torr, 40° C.) and ethylacetate (EA, 90 ml) and water (18 ml) were added thereto. The resulting mixture was stirred strongly at r.t. for 10 min. The organic layer was extracted and washed with the saturated brine (10 ml). The resulting solution was cooled to 10° C. and 48% HBr solution (3.7 ml) was added thereto dropwise with stirring. The pale yellow colored solid thus obtained was filtered off and dried under high vacuum (1 torr, 40° C.) to obtain the title compound as an intermediate.

reactant | 1-Fluoro-4-nitrobenzene | 50 mmol, 7.1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-hydroxyethylhyrazine | 66 mmol, 5.0 g | OCCNN | C2H8N2O
reactant | K2CO3 | 55 mmol, 7.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 70 ml | CC#N | C2H3N
product | 2-[N-(4-nitro-phenyl)-hydrazino]-ethanol | [N+](=O)([O-])C1=CC=C(C=C1)N(N)CCO | C8H11N3O3
